US05219847
I-8-3: Synthesis of 2-acetoxymethyl-6-hexyloxypyridine
An amount 40 ml of acetic anhydride was stirred at about 115° C. and a solution of 5.50 g of 6-hexyloxy-α-picoline N-oxide in 20 ml of glacial acetic acid was dropwise added over about one hour. After the dropwise addition, the mixture was stirred at 130° C. for 5 hours, acetic acid and acetic anhydride were removed by concentration under a reduced pressure, the reaction mixture was dissolved in ether, and the remaining acetic acid was neutralized with a sodium hydrogen carbonate solution. After extraction with ether and concentration under a reduced pressure, the residue was separated by silica gel column chromatography (ethyl acetate:hexane=1:9) to give 6.85 g of the desired product (yield 100%).

reactant | acetic anhydride | 40 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | 6-hexyloxy-α-picoline N-oxide | 5.50 g | C(CCCCC)OC=1C=CC=C([N+]1[O-])C | C12H19NO2
solvent | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
product | 2-acetoxymethyl-6-hexyloxypyridine | 6.85 g, yield 100% | C(C)(=O)OCC1=NC(=CC=C1)OCCCCCC | C14H21NO3
